US08217066B2
Step 2: 1-{4′-[4-(2-Acetoxy-1-methyl-3-phenyl-propylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 2, using acetic acid 1-benzyl-2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamino]-propyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | acetic acid 1-benzyl-2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamino]-propyl ester | C(C1=CC=CC=C1)C(C(C)NC=1C(=NOC1C1=CC=C(C=C1)Br)C)OC(C)=O | C22H23BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[4-(2-Acetoxy-1-methyl-3-phenyl-propylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C(CC1=CC=CC=C1)OC(C)=O)C | C34H36N2O5
